US09029371B2
To a suspension of LiAlH4 (8.18 g; 215.6 mmol) in THF (100 mL), was added dropwise a solution of 2-azido-1-(4-benzyloxy-phenyl)-ethanone (23.05 g; 86.2 mmol) in THF (200 mL), at 0° C. The mixture was stirred at 0° C. for 20 min. and subsequently 2 hours at RT. Thereafter, water (50 mL), and 2M aqueous NaOH-solution (150 mL) were added consecutively. The formed precipitate was removed by filtration over kieselguhr, and washed with MeOH. The filtrate was concentrated in vacuo and the remaining aqueous layer was extracted with CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo to afford 2-amino-1-(4-benzyloxy-phenyl)-ethanol (20.10 g).

reactant | LiAlH4 | 215.6 mmol, 8.18 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-azido-1-(4-benzyloxy-phenyl)-ethanone | 86.2 mmol, 23.05 g | N(=[N+]=[N-])CC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H13N3O2
reactant | water | 50 mL | O | H2O
reactant | NaOH | 2M, 150 mL | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-amino-1-(4-benzyloxy-phenyl)-ethanol | 20.10 g | NCC(O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H17NO2
